US06605629B1
To a mixture of 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-(3-(2-methylphenoxy)propyl)oxazole (1.0 g) and acetone (10 ml), conc. hydrochloride (0.3 ml) was added, which was allowed to stand at room temperature. The precipitated crystals were filtered (0.97 g). Recrystallization from ethanol gave 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-(3-(2-methylphenoxy)propyl)oxazole hydrochloride.

reactant | 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-(3-(2-methylphenoxy)propyl)oxazole | 1.0 g | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=C(C=CC=C1)C)N1C(=NC=C1)C | C23H22ClN3O2
reactant | hydrochloride | 0.3 ml | Cl | ClH
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-(3-(2-methylphenoxy)propyl)oxazole hydrochloride | Cl.ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=C(C=CC=C1)C)N1C(=NC=C1)C | InChI=1S/C23H22ClN3O2.ClH/c1-16-6-3-4-7-20(16)28-15-5-8-21-22(18-9-11-19(24)12-10-18)26-23(29-21)27-14-13-25-17(27)2;/h3-4,6-7,9-14H,5,8,15H2,1-2H3;1H
